US06410581B1
2-(2,6-Difluorophenyl)-4-(4-(4-hydroxy-3-n-propylphenyl)phenyl)-2-oxazoline
At −10° C., a solution of 3.7 g (92 mmol) of sodium hydroxide in 10 ml of water is added dropwise with stirring to a solution of 27 g (57 mmol) of 2,6-difluoro-N-[2-chloro-1-(4-(4-acetoxy-3-n-propylphenyl)phenyl)ethyl]-benzamide in 150 ml of dimethylformamide. The mixture is stirred overnight, 43 ml of a 25% strength solution of ammonia are added and the mixture is stirred overnight. The reaction mixture is then poured onto ice-water and extracted repeatedly with ethyl acetate. The combined ethyl acetate extracts are dried over MgSO4 and concentrated under reduced pressure.

reactant | sodium hydroxide | 92 mmol, 3.7 g | [OH-].[Na+]
reactant | 2,6-difluoro-N-[2-chloro-1-(4-(4-acetoxy-3-n-propylphenyl)phenyl)ethyl]-benzamide | 57 mmol, 27 g | FC1=C(C(=O)NC(CCl)C2=CC=C(C=C2)C2=CC(=C(C=C2)OC(C)=O)CCC)C(=CC=C1)F | C26H24ClF2NO3
reactant | ammonia | N | H3N
solvent | water | 10 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-(2,6-Difluorophenyl)-4-(4-(4-hydroxy-3-n-propylphenyl)phenyl)-2-oxazoline | FC1=C(C(=CC=C1)F)C=1OCC(N1)C1=CC=C(C=C1)C1=CC(=C(C=C1)O)CCC | C24H21F2NO2
